US07902224B2
5-(2-Iodophenyl)pentan-2-one
A suspension of dry lithium chloride (6.4 g, 150 mmol) and cuprous cyanide (6.72 g, 75 mmol) in anhydrous tetrahydrofuran (75 ml) was stirred under nitrogen for 15 min at 21° C. and then cooled to −73°. A 0.5M solution of 2-iodobenzylzinc bromide in tetrahydrofuran (150 ml, 75 mmol) was added dropwise over 40 min below −65° C. and the temperature was allowed to rise to −7° C., stirred at this temperature for 0.5 h and then cooled back to −68° C. Chlorotrimethylsilane (19 ml, 150 mmol) was added over 10 min and stirring continued for a further 15 min. A solution of methylvinylketone (6.25 ml, 75 mmol) in anhydrous tetrahydrofuran (150 ml) was dried over anhydrous sodium sulphate and then added to the reaction over 25 min. The mixture was stirred in an acetone/cardice bath for 19 h, reaching −30° C., and then without cooling for 3 h. Aqueous ammonium chloride solution (200 ml) was added carefully and the reaction mixture was extracted with ether (2×200 ml). The combined organic layers were washed with water (200 ml) (a white solid was filtered off and discarded) and saturated brine (200 ml), dried over anhydrous magnesium sulphate and evaporated. The resulting oil was dissolved in cyclohexane (200 ml), solid was filtered off, and the filtrate was evaporated to give an oil (17.6 g). A 2 g portion was purified by flash chromatography on a 90 g Biotage cartridge eluting with an 8:1 mixture of cyclohexane and toluene to give the title compound as a liquid (1.112 g).

reactant | lithium chloride | 150 mmol, 6.4 g | [Cl-].[Li+]
reactant | 2-iodobenzylzinc bromide | [Br-].IC1=C(C[Zn+])C=CC=C1
reactant | Chlorotrimethylsilane | 150 mmol, 19 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | methylvinylketone | 75 mmol, 6.25 ml | CC(=O)C=C | C4H6O
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 mmol, 150 ml | O1CCCC1 | C4H8O
product | 5-(2-Iodophenyl)pentan-2-one | 17.6 g | IC1=C(C=CC=C1)CCCC(C)=O | C11H13IO
